### PR TITLE
[Merged by Bors] - chore(Mathlib/Order/BooleanAlgebra/Basic): some golf

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

The point is mainly to golf `sdiff_eq_self_iff_disjoint'` since I noticed it's identical to `sdiff_eq_left`, but I golfed the rest as a drive-by.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks! I still find these proofs somewhat verbose, but your golfs make it better!
maintainer merge

File: Mathlib/Order/BooleanAlgebra/Basic.lean [hunk 1]
```diff
@@ -231,14 +218,9 @@ theorem sdiff_eq_sdiff_iff_inf_eq_inf : y \ x = y \ z ↔ y ⊓ x = y ⊓ z :=
...
-theorem sdiff_eq_self_iff_disjoint : x \ y = x ↔ Disjoint y x :=
-  calc
-    x \ y = x ↔ x \ y = x \ ⊥ := by rw [sdiff_bot]
-    _ ↔ x ⊓ y = x ⊓ ⊥ := sdiff_eq_sdiff_iff_inf_eq_inf
-    _ ↔ Disjoint y x := by rw [inf_bot_eq, inf_comm, disjoint_iff]
+theorem sdiff_eq_self_iff_disjoint : x \ y = x ↔ Disjoint y x := sdiff_eq_left.trans disjoint_comm
 
-theorem sdiff_eq_self_iff_disjoint' : x \ y = x ↔ Disjoint x y := by
-  rw [sdiff_eq_self_iff_disjoint, disjoint_comm]
+theorem sdiff_eq_self_iff_disjoint' : x \ y = x ↔ Disjoint x y := sdiff_eq_left
```
Comment (riccardobrasca) [inline Mathlib/Order/BooleanAlgebra/Basic.lean]: This can be removed (with a deprecation).

**Comment by SnirBroshi** [comment]
-awaiting-author

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
